US05359059
A mixture of sodium hydrogen carbonate (0.84 g) in water (10 ml), dimedone (0.84 g) and tetrahydrofuran (80 ml) is treated with ultrasonics, and thereto is added palladium diacetate (0.11 g) and triethyl phosphite (0.58 g) under nitrogen atmosphere, and the mixture is stirred for three minutes. To the mixture is added (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester (3.83 g), and the mixture is stirred at 35°-37° C. for 45 minutes. The mixture is stirred at 5° C. for 30 minutes, and the precipitated crystals are collected by filtration, washed with tetrahydrofuran, and dried under reduced pressure to give (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-carbapen- 2-em-3-carboxylic acid sodium salt (3.28 g).

reactant | sodium hydrogen carbonate | 0.84 g | C(O)([O-])=O.[Na+]
reactant | dimedone | 0.84 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | triethyl phosphite | 0.58 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid allyl ester | 3.83 g | C(C=C)OC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O)=O)C)S[C@@H]2CC(NC2)=S | C17H22N2O4S2
solvent | water | 10 ml | O | H2O
catalyst | palladium diacetate | 0.11 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-carbapen- 2-em-3-carboxylic acid sodium salt | 3.28 g, Yield: 90% | [Na+].N1C(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)=S | InChI=1S/C14H18N2O4S2.Na/c1-5-10-9(6(2)17)13(18)16(10)11(14(19)20)12(5)22-7-3-8(21)15-4-7;/h5-7,9-10,17H,3-4H2,1-2H3,(H,15,21)(H,19,20);/q;+1/p-1/t5-,6-,7-,9-,10-;/m1./s1
